US08859571B2
A solution of 4-chloro-N-methyl-3-nitrobenzenesulfonamide (6.35 g, 25.3 mmol) in EtOH (150 mL) and water (50.0 mL) was treated with iron (14.15 g, 253 mmol) and NH4Cl (13.55 g, 253 mmol) and heated at 90° C. for 4 hours before being cooled and filtered through celite. The filter cake was washed with EtOAc and the combined filtrate was filtered again to remove precipitated NH4Cl before being concentrated. The resulting crude material was partitioned between 350 ml EtOAc and 50 ml saturated aqueous NaHCO3. The organic layer was washed with brine, dried over MgSO4, concentrated and subjected to flash column chromatography (330 g silica gel, 0-15% EtOAc/DCM) to afford 3-amino-4-chloro-N-methylbenzenesulfonamide (5.60 g, 100%) as a light yellow crystalline solid. 1H NMR (400 MHz, MeOD) δ ppm 7.39 (d, J=8.28 Hz, 1 H), 7.27 (d, J=2.26 Hz, 1 H), 7.03 (dd, J=8.28, 2.26 Hz, 1 H), 2.54 (s, 3 H). MS 221.0 (M+H+).

reactant | 4-chloro-N-methyl-3-nitrobenzenesulfonamide | 25.3 mmol, 6.35 g | ClC1=C(C=C(C=C1)S(=O)(=O)NC)[N+](=O)[O-] | C7H7ClN2O4S
reactant | NH4Cl | 253 mmol, 13.55 g | [NH4+].[Cl-]
solvent | EtOH | 150 mL | CCO | C2H6O
solvent | water | 50.0 mL | O | H2O
catalyst | iron | 253 mmol, 14.15 g | [Fe] | Fe
product | 3-amino-4-chloro-N-methylbenzenesulfonamide | 5.60 g, 100% | NC=1C=C(C=CC1Cl)S(=O)(=O)NC | C7H9ClN2O2S
